US07034042B2
A solution of (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid (0.916 g, 4.51 mmol), triethylamine (1.257 ml, 9.02 mmol) and 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (1.44 g, 4.51 mmol) in DCM (10 ml) is treated with (R)-3-amino-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid benzyl ester. The reaction mixture is stirred at ambient temperature for 2 hours, then is washed with water, dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with 2:1 ethylacetate:hexane) to afford (R)-3-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid benzyl ester. [MH]+ 572.1.

reactant | (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid | 4.51 mmol, 0.916 g | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)O)OC | C11H9NO3
reactant | triethylamine | 9.02 mmol, 1.257 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 4.51 mmol, 1.44 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (R)-3-amino-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)N)=O | C22H27FN2O3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-3-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)NC(\C=C\C1=C(C=CC(=C1)C#N)OC)=O)=O | C33H34FN3O5
